US07632857B2
4-(6-Ethanesulfonyl-pyridin-3-yl)-2-fluoro-benzoic acid
Procedure VV: To a stirring solution of 2-Ethanesulfonyl-5-iodo-pyridine (1.0 mmol) and (4-carboxy-3-fluorophenyl)boronic acid (1.3 mmol) in dioxane (0.1M), add dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium dichloromethane complex (0.03 mmol) and 2M aqueous sodium carbonate (3.0 mmol). Heat the reaction to reflux for 4 hours. After this time, remove the heat and concentrate in vacuo. Wash with dichloromethane while extracting with water. Acidify the aqueous layer with 1N hydrochloric acid and extract with 10% isopropanol/dichloromethane four times. Combine the organics, dry with sodium sulfate, decant and concentrate in vacuo. MS (m/e): 310.3 (M+1)

reactant | 2-Ethanesulfonyl-5-iodo-pyridine | 1.0 mmol | C(C)S(=O)(=O)C1=NC=C(C=C1)I | C7H8INO2S
reactant | (4-carboxy-3-fluorophenyl)boronic acid | 1.3 mmol | C(=O)(O)C1=C(C=C(C=C1)B(O)O)F | C7H6BFO4
reactant | sodium carbonate | 3.0 mmol, 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 0.1M | O1CCOCC1 | C4H8O2
product | 4-(6-Ethanesulfonyl-pyridin-3-yl)-2-fluoro-benzoic acid | C(C)S(=O)(=O)C1=CC=C(C=N1)C1=CC(=C(C(=O)O)C=C1)F | C14H12FNO4S
